US07595327B2
According to the procedure of Example 24, Step 3, 0.15 g (0.26 mmol) of 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester and hydroxylamine gave tert-butyl 2-[(hydroxyamino)carbonyl]-3-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-7-azabicyclo[2.2.1]heptane-7-carboxylate as an amorphous off yellow solid (0.0162 g, 14.7%) after Biotage Flash 40S chromatography, eluting with 5% methanol in ethyl acetate. MS: 583 (M+H)+

reactant | 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester | 0.26 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1C2C(C(C1CC2)NS(=O)(=O)C2=CC=C(C=C2)OCC2=CC(=NC1=CC=CC=C21)C)C(=O)O | C29H33N3O7S
reactant | hydroxylamine | NO | H3NO
product | tert-butyl 2-[(hydroxyamino)carbonyl]-3-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-7-azabicyclo[2.2.1]heptane-7-carboxylate | ONC(=O)C1C2CCC(C1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC3=CC=CC=C13)C)N2C(=O)OC(C)(C)C | C29H34N4O7S
